US06441017B1
Step A: 2-(3-Methoxyphenyl)nitrobenzene
3-Methoxyphenyl boronic acid (7.4 g, 48.71 mmol), 1-bromonitrobenzene (10.25 g, 40.59 mmol) and K2CO3 (28.05 g, 202.9 mmol) were dissolved in H2O (85 mL) and ethylene glycol dimethyl ether (170 mL). The solution was degassed, Pd(PPh3)4 (1.7 g, 1.50 mmol) was added and the vessel was heated to 110° C. under argon for 5 hours. The reaction was cooled, diluted with water and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was crystallized from EtOAc/Hex. The mother liquor was concentrated in vacuo and chromatographed on silica gel, eluting with a gradient of 1 to 10% EtOAc in hexanes, to yield the above-titled compound.

reactant | 3-Methoxyphenyl boronic acid | 48.71 mmol, 7.4 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 1-bromonitrobenzene | 40.59 mmol, 10.25 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | K2CO3 | 202.9 mmol, 28.05 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 85 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 170 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1.50 mmol, 1.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Methoxyphenyl)nitrobenzene | COC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO3
